US08877934B2
Synthesis of (E)-N-[2-[(2-acetyl-4-pyridyl)amino]ethyl]-4,4,5,5,5-pentafluoro-pent-2-enamide (A-134)
(E)-4,4,5,5,5-Pentafluoro-N-[2-[[2-(2-methyl-1,3-dioxolan-2-yl)-4-pyridyl]amino]ethyl]pent-2-enamide (35 mg, 0.09 mmol) was dissolved in aceton (1 ml), 4M hydrochloric acid (0.5 ml) was added and the mixture was stirred in a closed vessel at 100° C. for 15 minutes with microwave heating. The mixture was diluted with water, extracted with ethyl acetate and the organic phase was washed with brine, dried over magnesium sulfate and evaporated to dryness. The resulting residue was purified by preparative HPLC (gradient of water containing 0.1% NH3 and acetonitrile) to yield 2.5 mg (0.0071 mmol, 7.9%).

reactant | (E)-4,4,5,5,5-Pentafluoro-N-[2-[[2-(2-methyl-1,3-dioxolan-2-yl)-4-pyridyl]amino]ethyl]pent-2-enamide | 0.09 mmol, 35 mg | FC(/C=C/C(=O)NCCNC1=CC(=NC=C1)C1(OCCO1)C)(C(F)(F)F)F | C16H18F5N3O3
reactant | hydrochloric acid | 4M, 0.5 ml | Cl | ClH
solvent | aceton | 1 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | (E)-N-[2-[(2-acetyl-4-pyridyl)amino]ethyl]-4,4,5,5,5-pentafluoro-pent-2-enamide | C(C)(=O)C1=NC=CC(=C1)NCCNC(\C=C\C(C(F)(F)F)(F)F)=O | C14H14F5N3O2
